* C:\Users\jarlb\OneDrive\Documenten\Homework\EE2C11\Vdsat\Draft1.asc
M1 N001 N002 0 0 NMOS l=180e-9 w=180e-8
VDS N001 0 1.8
VGS N002 0 1.8
.model NMOS NMOS
.model PMOS PMOS
.lib C:\Users\jarlb\OneDrive\Documenten\LTspiceXVII\lib\cmp\standard.mos
.inc ./ptm180.mod
.step VGS 0.6 1.8 0.3
.dc VDS 0 1.8 0.02
* .dc VGS 0 1.8 0.02
* .step VDS 0.6 1.8 0.3
.backanno
.end
